US06951879B2
In analogy to example 21.1, 4-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butan-1-ol and methanesulfonic acid chloride were converted to yield Methanesulfonic acid 4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester, MS: 430 (MH+).

reactant | 4-[3-(4-Trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butan-1-ol | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCO)(F)F | C18H16F3NOS
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | Methanesulfonic acid 4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C)(F)F | C19H18F3NO3S2
